### PR TITLE
Euler's sum of powers conjecture 

### PR DESCRIPTION
**Pull request by m-ow**
One of the easy targets in https://github.com/google-deepmind/formal-conjectures/issues/104

Should we keep the general case (k > 1), or split into separate cases reflecting different solution statuses?

Would appreciate feedback!

### CODE REVIEW

File: FormalConjectures/Wikipedia/EulerSumOfPowers.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+Euler's sum of powers conjecture states that for integers $n > 1$ and $k > 1$,
+if the sum of $n$ positive integers each raised to the $k$-th power equals another integer
+raised to the $k$-th power, then $n \geq k$.
+
+The conjecture is known to be false for $k = 4$ and $k = 5$,
+but remains open for $k \geq 6$.
+-/
+@[category research open, AMS 11]
+theorem eulers_conjecture (n k b : ℤ) (hn : 1 < n) (hk : 1 < k) (a: ℤ → ℝ)
+    (hsum : ∑ i ∈ Finset.Icc 1 n, (a^k) i = b^k) : n ≥ k := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerSumOfPowers.lean]:
```suggestion
theorem eulers_sum_of_powers_conjecture (n k b : ℕ) (hn : 1 < n) (hk : 1 < k) (a: Fin n → ℕ)
    (ha : ∀ i, a i > 0) (hsum : ∑ i, (a i) ^ k = b ^ k) : n ≥ k := by
```

There were a couple of problems before; I simplified a bit and added the assumption `ha`, making sure we exclude trivial solutions.

**Comment by m-ow** [comment]
@mo271 Updated with your suggestions. Focusing specifically on cases where conjecture is known to be false.
Please take another look when you have a moment, thank you so much for the feedback!

File: FormalConjectures/Wikipedia/EulerSumOfPowers.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+but remains open for $k \geq 6$.
+-/
+@[category research open, AMS 11]
+theorem eulers_sum_of_powers_conjecture (n k b : ℕ) (hn : 1 < n) (hk : 1 < k) (a: Fin n → ℕ)
+    (ha : ∀ i, a i > 0) (hsum : ∑ i, (a i) ^ k = b ^ k) : n ≥ k := by
+  sorry
+
+@[category research solved, AMS 11]
+theorem eulers_sum_of_powers_conjecture.false_for_k4 : ¬ (∀ (n k b : ℕ), ∀  (hn : 1 < n), ∀ (hk : 1 < k),
+∀  (a: Fin n → ℕ), ∀ (ha : ∀ i, a i > 0), ∀ (hsum : ∑ i, (a i) ^ k = b ^ k), n ≥ k) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/EulerSumOfPowers.lean]: Small style nitpick (and same below)
```suggestion
theorem eulers_sum_of_powers_conjecture.false_for_k4 : ¬ (∀ (n k b : ℕ) (hn : 1 < n) (hk : 1 < k)
    (a: Fin n → ℕ) (ha : ∀ i, a i > 0) (hsum : ∑ i, (a i) ^ k = b ^ k), k ≤ n) := by
```

File: FormalConjectures/Wikipedia/EulerSumOfPowers.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+  decide
+
+@[category research solved, AMS 11]
+theorem eulers_sum_of_powers_conjecture.false_for_k5 : ¬ (∀ (n k b : ℕ), ∀  (hn : 1 < n), ∀ (hk : 1 < k),
+∀  (a: Fin n → ℕ), ∀ (ha : ∀ i, a i > 0), ∀ (hsum : ∑ i, (a i) ^ k = b ^ k), n ≥ k) := by
+  push_neg
+  use 4, 5, 144
+  norm_num
+  use ![27, 84, 110, 133]
+  decide
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerSumOfPowers.lean]:
```suggestion
@[category research solved, AMS 11]
theorem eulers_sum_of_powers_conjecture.false_for_k5 : ¬ (∀ (n b : ℕ), ∀  (hn : 1 < n),
∀  (a: Fin n → ℕ), ∀ (ha : ∀ i, a i > 0), ∀ (hsum : ∑ i, (a i) ^ 5 = b ^ 5), n ≥ 5) := by
  push_neg
  use 4, 144
  norm_num
  use ![27, 84, 110, 133]
  decide
```
I would specialize the already the statement here replacing `k` by `5`. Dito for `false_for_k4`.

**Comment by m-ow** [comment]
@Paul-Lez @mo271 Thank you both for your thoughtful reviews and guidance! I've incorporated all your suggestions ^^

File: FormalConjectures/Wikipedia/EulerSumOfPowers.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+/--
+Euler's sum of powers conjecture states that for integers $n > 1$ and $k > 1$,
+if the sum of $n$ positive integers each raised to the $k$-th power equals another integer
+raised to the $k$-th power, then $n \geq k$.
+
+The conjecture is known to be false for $k = 4$ and $k = 5$,
+but remains open for $k \geq 6$.
+-/
+@[category research open, AMS 11]
+theorem eulers_sum_of_powers_conjecture (n k b : ℕ) (hn : 1 < n) (hk : 1 < k) (a: Fin n → ℕ)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/EulerSumOfPowers.lean]: Oh actually don't we also want this?
```suggestion
theorem eulers_sum_of_powers_conjecture (n k b : ℕ) (hn : 1 < n) (hk : 5 < k) (a : Fin n → ℕ)
```
